* C:\Users\nicof\Desktop\Laboratorios 6 y 7\Repositorio\Magnetometro-optico\ltspice\Draft1.asc
R1 N005 N001 10k
C1 N005 N001 150p
XU1 0 N001 V+ V- N005 OP177A
XU2 0 N002 V+ V- N006 OP177A
C2 0 V- 1n
C3 0 V- 1n
R2 N006 N002 10k
C4 N006 N002 150p
R3 N002 N005 1k
I1 0 N001 0 AC 2m
R4 N001 0 750Meg
V1 V+ V- 15
XU3 0 N003 V+ V- N007 OP177A
C5 0 V- 1n
R5 N007 N003 10k
C6 N007 N003 150p
R6 N003 N006 1k
XU4 0 N004 V+ V- A-B OP177A
C7 0 V- 1n
R7 A-B N004 10k
C8 A-B N004 150p
R8 N004 N007 1k
.ac lin 30000 10 100000
.lib OP177A.lib
.backanno
.end
