* C:\Users\Manue\OneDrive\Documentos\GitHub\Magnetómetro Óptico\ltspice\fotodetectores.asc
R1 +V N003 270
R2 N003 0 270
R3 0 N011 270
R4 N011 -V 270
V1 +V -V 15
C1 -V 0 0.1µ
C2 0 +V 0.1µ
R5 N003 N006 10
I1 N004 N006 0.00325
I2 N009 N004 0.00325
R6 N009 N011 10
R7 N001 N003 560
R8 N002 N006 560
XU1 N002 N001 +V -V Out+ OP177A
R9 Out+ N001 10k
C3 Out+ N001 150p
R10 0 N002 10k
XU2 N010 N008 +V -V Out- OP177A
R11 Out- N008 10k
C4 Out- N008 150p
R12 0 N010 10k
R13 N008 N009 560
R14 N010 N011 560
R16 N007 N004 10k
C5 N007 N004 150p
XU3 0 N004 +V -V N007 OP177A
XU4 0 N005 +V -V A-B OP177A
C6 0 -V 1n
C7 0 -V 1n
R15 A-B N005 10k
C8 A-B N005 150p
R17 N005 N007 1k
R18 N006 N004 10Meg
R19 N004 N009 10Meg
.dc I1 0m 30m 0.1m
.lib ADI.lib
.backanno
.end
