* C:\Users\nicof\Desktop\Laboratorios 6 y 7\Repositorio\Magnetometro-optico\ltspice\fotodetectores_mejorados_x3.asc
R1 +V N002 270
R2 -V V2- 270
V1 +V -V 15
C2 -V 0 0.1µ
C1 0 +V 0.1µ
R3 N002 N007 470
R4 N007 0 470
R5 0 N011 470
R6 N011 V2- 470
XU1 N002 0 N007 MyTL431
XU2 0 V2- N011 MyTL431
I2 N012 N009 SINE(1m 0.101m 10k)
R7 N002 N006 10
R8 N012 V2- 10
R9 N001 N002 50
R10 N005 N006 50
XU5 N005 N001 +V -V Out+ OP177A
R11 Out+ N001 10k
C5 Out+ N001 150p
R12 0 N005 10k
R13 N010 N012 50
R14 N013 V2- 50
XU6 N013 N010 +V -V Out- OP177A
R15 Out- N010 10k
C6 Out- N010 150p
R16 0 N013 10k
R17 N008 N003 10k
C7 N008 N003 150p
XU3 0 N003 +V -V N008 OP177A
XU4 0 N004 +V -V A-B OP177A
C8 0 -V 1n
C10 0 -V 1n
R19 A-B N004 10k
C9 A-B N004 15p
R18 N004 N008 1k
R20 N003 N009 .001
C3 N002 0 1µ
C4 0 V2- 1µ
R21 N009 N012 10Meg
R22 N006 N009 10Meg
I1 N009 N006 SINE(1m 0.099m 10k)
.tran 0 0.001 0.0001 0.00001
.lib MyTL431.sub
.lib OP177A.lib
.backanno
.end
