* C:\Users\nicof\Desktop\Laboratorios 6 y 7\Repositorio\Magnetometro-optico\ltspice\resta.asc
R1 +V N001 270
R2 -V V2- 270
V1 +V -V 24
C1 -V 0 0.1µ
C2 0 +V 0.1µ
R3 N001 N004 470
R4 N004 0 470
R5 0 N007 470
R6 N007 V2- 470
XU1 N001 0 N004 MyTL431
XU2 0 V2- N007 MyTL431
I1 N001 N006 SINE(1m 0.1m 10000) AC 3.25m
I2 N006 V2- SINE(1m 0.15m 10000)
R17 N005 N002 1k
C5 N005 N002 150p
XU5 0 N002 +V -V N005 OP177A
XU6 0 N003 +V -V A-B OP177A
C6 0 -V 1n
C7 0 -V 1n
R18 A-B N003 1k
C8 A-B N003 150p
R19 N003 N005 1k
R20 N002 N006 .001
C9 N001 0 1µ
C10 0 V2- 1µ
.tran 0 0.001 0.00001 0.000001
.lib MyTL431.sub
.lib OP177A.lib
.backanno
.end
